data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3021,"C[O+:1]=[CH2:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3550,"CC(=O)[O-].CCC(C)(C)[OH:1].CN(C)C1=CC=[N+]([C:2](C)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7836,"CCOC(=O)NN(C(=O)OCC)[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC12CCC3C(CC3(C)C)C(C)(CCC1[O-:2])C2|(2, 1)"
train,pmechdb_split_0,0,3396,"C1=CC=[NH+]C=C1.COC(=O)CC(=C(C(=O)OC)C(O)[CH2:1][Cl:2])[O-:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9352,"C1=CC=C([CH2:1][Cl:2])C=C1.C[N:3](C)N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8947,"CCCCC1OC2CC3OC(CO[Si](C)(C)C(C)(C)C)C([O+]([Li-][NH+]([Si](C)(C)C)[Si](C)(C)C)[Si-:1](C)(C)(C)[Cl:2])=CCC3OC2(C)CC1CCC|((1, 2), 2)"
train,pmechdb_split_0,0,357,"C[C:1](=[C:2]1CCC[C:3]1(C)[OH:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2790,"CC(C)C(C1=CC=CC=C1)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2363,"CC1CC2C(CC3(C)C([OH+]S(=O)(=O)[CH2-:1])CC4C(C=CC4(C)C)C23O)C1OCC1=CC=CC=C1.CC[N+:2](C(C)C)(C(C)C)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6339,"CC[O:1][CH:2](C)[NH+:3](C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2993,"CCOC(=O)N[N:1](C(=O)OCC)[P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:3]C(C)C(=O)OCC.O=C(O)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3975,"CC[O+:1](S(C)(C)Cl)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,156,"C1CCOC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCC[OH:1].OC1=CC=C([C:2](O)=[OH+:3])C=C1O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4173,"C1=CC=NC=C1.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].COC1=C(C(C)C)C(OC)=C(C(C2=C(C)CCCC2(C)C)[OH:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,4714,"CC(=O)[O-].O.O=S(CCN1CCC2CC[C:1](=[NH2+:2])C(C3=C([NH2:3])C=CC=C3)C21)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8526,"CN1CCCO[C:1]1([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2799,"O=C1C2=C(C=CC=C2)C(=O)[N:1]1[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7363,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)CNC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4263,"CO[C:1](O)([OH+:2]C)[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3852,"C1=C[N:1]=CN1.COC1OC2COC(C3=CC=CC=C3)OC2C(I)C1[O+:2](P(I)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:3].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5803,"COC1=CC(CCNC(CC2=CC(O)=C(OC)C=C2)=[O:1])=CC=C1.COC1=C[CH+:2][C:3]2([H:4])C(=C1)CCNC2(Cl)CC1=CC(O)=C(OC)C=C1.O=P([O-])(Cl)Cl|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6785,"CCSC[CH:1]=[C:2]=[NH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3209,"CC(C)(C)O.CC(C)(C)[O-:1].CC1CC2C(CC3(C)C(OS(C)(=O)=O)CC4C(C=CC4(C)C)C23[O:2][H:3])C1OCC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10345,"C1=CC=[N:1]C=C1.C[CH:2]([S+](OC(=O)C(F)(F)F)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8200,"CCC1CC[C:1]([CH2:2][N+:3]#N)([OH:4])[CH2:5]1.O.[Cl-]|(4, 1);((1, 5), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8942,"CC[CH:1]=[O+:2][Ti-]([Cl])([Cl])([Cl])[Cl].C[Si](C)(C)[O:3][C:4](C)=[CH2:5]|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7423,"CO[P:1](I)OC.[H:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1207,"C=CCN1CCC23C4=C5C=CC(OC)=C4OC2[C:1]([OH:2])=[CH:3]CC3C1C5.CO.CS(=O)(=O)[O:4][H:5]|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1737,"CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]C1=CC([N+](=O)[O-])=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2452,"COC(=O)C1C2CCC(C2)[N+:1]1([CH2:2][CH:3](C#N)[H:4])[O-:5].O=C(O)C1=CC=CC(Cl)=C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1049,"BrC1=CC=C(C2=CCC(C3=CC=CC(Br)=C3)([OH:1])O2)C=C1.C[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7215,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH+]5CC2CCC2)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1119,"C[P+:1](O)(O)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4730,"C[C:1](C)([OH:2])[OH+:3]C1=CC=CC=C1.O=S(=O)([O-])O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7664,"CCCO.O=S(=O)(O)[O:1][H:2].O=S(=O)([O-])O.[NH3+]C(CC(O)=[O:3])C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7033,"C=C[C:1](Cl)=[O:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1552,"[CH:1](=[NH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2182,"C[N:1]=[CH2:2].C[Si-](C)(C)(F)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6933,"CC(C)[CH2:1][Br:2].C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1865,"CC1=CC=C(CC(C2=CC=CC=C2)[O-:1])C=C1.N#CC(C1=CC=CC=C1)[O:2][H:3].O=C(CC1=CC=CC=C1)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7709,"CCC1CC([OH+:1][H:2])=NC2=CC=CC=C21.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8184,"C=CC(O)(OC(C)=O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
